US04120972
Sodium (3.0 g) was added, with stirring under nitrogen, to dry ethanol (75 ml). After the sodium had dissolved mercaptoethanol (9.0 ml) was introduced and to this mixture was added 4-methyl-5-chloromethylimidazole hydrochloride (10 g), as a solid, over a period of 1.5 hours at room temperature. The mixture was then stirred for a further 1 hour at room temperature. After this time the reaction was warmed and the ethanol distilled off at reduced pressure. The residue was taken up in water, acidified with concentrated hydrochloric acid, and continuously extracted with ether to remove the excess mercaptoethanol. The aqueous fraction was then basified using solid sodium carbonate and continuously extracted with ethyl acetate. To the extract was added a further volume of ethyl acetate and the whole warmed to re-dissolve the crude product which had deposited. After drying (MgSO4) and reducing the volume, crystallisation from this solution below 40° and cooling to -15° afforded 2-(5-methyl-4-imidazolylmethylthio)ethanol, m.p. 74°-76°.

reactant | Sodium | 3.0 g | [Na] | Na
reactant | mercaptoethanol | 9.0 ml | SC(C)O | C2H6OS
reactant | 4-methyl-5-chloromethylimidazole hydrochloride | 10 g | Cl.CC=1N=CNC1CCl
reactant | ethanol | 75 ml | C(C)O | C2H6O
product | 2-(5-methyl-4-imidazolylmethylthio)ethanol | CC1=C(N=CN1)CSCCO | C7H12N2OS
